US07402595B2
6-bromo-2-(4-methylsulfanylbenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
The present compound was synthesized by a method similar to that in Example 83 and using 6-bromo-4-phenyl-3-isocoumarincarboxylic acid methyl ester and 4-(methylthio)benzylamine.

reactant | 6-bromo-4-phenyl-3-isocoumarincarboxylic acid methyl ester | COC(=O)C=1OC(=O)C2=CC=C(C=C2C1C1=CC=CC=C1)Br | C17H11BrO4
reactant | 4-(methylthio)benzylamine | CSC1=CC=C(CN)C=C1 | C8H11NS
product | 6-bromo-2-(4-methylsulfanylbenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=C(C=C1)SC | C25H20BrNO3S
